US07056920B2
Step 2: Preparation of 4-(2-chloro-4-methoxyphenyl)-3-methyl-4-oxobutanal
To a 500 mL, 3-neck round bottom flask, equipped with a mechanical stirrer and an internal thermometer, was added DMSO (17.0 mL, 239 mmol) and CH2Cl2 (200 mL). The solution was cooled to −68° C. with a dry ice/acetone bath. To this solution was added oxalyl chloride (10.4 mL, 119 mmol) slowly. The mixture was stirred at −68° C. for 15 min followed by the addition of a solution of 4-hydroxy-1-(2-chloro-4-methoxyphenyl)-2-methylbutan-1-one (12.9 g, 53.0 mmol) in CH2Cl2 (20.0 mL) slowly. After stirring at <−68° C. for 1 h, to the mixture was added Et3N (70.0 mL, 502 mmol). The cooling bath was removed after 5 min and the mixture was stirred at room temperature for 1.5 h. The mixture was diluted with water (200 mL). The aqueous layer was extracted with CH2Cl2 (2×). The combined organic solutions was concentrated in vacuo to dryness and the residue was subjected to column chromatography (silica gel, 1/10 EtOAc/heptane) to give 8.07 g (63%) of light yellow oil as the title compound:

reactant | DMSO | 239 mmol, 17.0 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 119 mmol, 10.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-hydroxy-1-(2-chloro-4-methoxyphenyl)-2-methylbutan-1-one | 53.0 mmol, 12.9 g | OCCC(C(=O)C1=C(C=C(C=C1)OC)Cl)C | C12H15ClO3
reactant | Et3N | 502 mmol, 70.0 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-chloro-4-methoxyphenyl)-3-methyl-4-oxobutanal | ClC1=C(C=CC(=C1)OC)C(C(CC=O)C)=O | C12H13ClO3
